US08058441B2
(e). 1-Acetyl-4-phenyl-6-(4-phenylbenzoyl)oxy-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Acylation of 1-acetyl-6-hydroxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg) with 4-biphenylcarbonyl chloride (14 mg) and N,N-diisopropylethylamine (28 μl) in tetrahydrofuran (1 ml) was performed according to the method described in example 6.

reactant | 1-acetyl-6-hydroxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)O)(C)C1=CC=CC=C1)(C)C | C20H23NO2
reactant | 4-biphenylcarbonyl chloride | 14 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | N,N-diisopropylethylamine | 28 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-4-phenyl-6-(4-phenylbenzoyl)oxy-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)OC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)(C)C1=CC=CC=C1)(C)C | C33H31NO3
